US06660756B2
tert-Butyl-(4-chlorophenyl)acetate
To a suspension of N,N-dimethyl-formamide-di-tert-butyl acetal (25 ml, 104.4 mmol) in dry toluene (90 ml) was added p-chlorophenyl acetic acid (5.94 g, 34.8 mmol) and the whole heated at 80° C. for 1 h. The mixture was diluted with EtOAc (50 ml) and washed with water (50 ml), 3% aqueous NaHCO3 solution (50 ml) and brine (20 ml) and then dried over MgSO4 and evaporated to give an oil. This oil was purified using 35%, then 50% DCM in pentane to give the title product (2.4 g, 30%); 1HNMR (400 MHz, CDCl3) δ: 1.42 (s, 9H), 3.44 (s, 2H), 7.20 (d, 2H), 7.28 (d, 2H).

reactant | N,N-dimethyl-formamide-di-tert-butyl acetal | 104.4 mmol, 25 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | p-chlorophenyl acetic acid | 34.8 mmol, 5.94 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | tert-Butyl-(4-chlorophenyl)acetate | 2.4 g, 30% | C(C)(C)(C)OC(CC1=CC=C(C=C1)Cl)=O | C12H15ClO2
